US04243609
To a solution of 16.5 g of ethyl 3-fluorobenzoate in 150 ml. of dry N,N-dimethylformamide is added 4.12 g of sodium hydride (56% in oil) and 27.7 g of 1-bromotetradecane. The mixture is heated on a steam bath until hydrogen evolution began and then chilled briefly to control the reaction. After the sodium hydride has reacted, the mixture is heated on a steam bath under nitrogen for 6 hours. The mixture is chilled, filtered and the solid washed with ethanol and with water to give ethyl 3-fluoro-4-(tetradecylamino)benzoate.

reactant | ethyl 3-fluorobenzoate | 16.5 g | FC=1C=C(C(=O)OCC)C=CC1 | C9H9FO2
reactant | sodium hydride | 4.12 g | [H-].[Na+]
reactant | 1-bromotetradecane | 27.7 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | hydrogen | [H][H] | H2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 3-fluoro-4-(tetradecylamino)benzoate | FC=1C=C(C(=O)OCC)C=CC1NCCCCCCCCCCCCCC | C23H38FNO2
